US07910734B2
2-(3,3,5,5-Tetramethylcyclohex-1-enyl)phenylamine
To a solution of N-[2-(1-hydroxy-3,3,5,5-tetramethylcyclohexyl)phenyl]formamide (4.00 g, 14.5 mmol) in toluene (40 mL) was added pyridinium p-toluenesulfonate (365 mg, 1.45 mmol), followed by stirring at 110° C. for 1 hour. Then, the reaction mixture was cooled down to 50° C., methanol (40 mL) and a 5N aqueous solution of sodium hydroxide (14.5 mL) were added thereto, and the reaction mixture was stirred at 80° C. for 14 hours. The reaction mixture was allowed to cool down to room temperature, the aqueous layer was removed. The organic layer was washed with water and a 5% aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated to give 3.33 g of the title compound as a brown oil.

reactant | N-[2-(1-hydroxy-3,3,5,5-tetramethylcyclohexyl)phenyl]formamide | 14.5 mmol, 4.00 g | OC1(CC(CC(C1)(C)C)(C)C)C1=C(C=CC=C1)NC=O | C17H25NO2
reactant | pyridinium p-toluenesulfonate | 1.45 mmol, 365 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | methanol | 40 mL | CO | CH4O
reactant | sodium hydroxide | 14.5 mL | [OH-].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3,3,5,5-Tetramethylcyclohex-1-enyl)phenylamine | 3.33 g | CC1(C=C(CC(C1)(C)C)C1=C(C=CC=C1)N)C | C16H23N
